2141-12-19 06:07:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ULTRASOUND - At [**2141-12-18**] 11:08 AM
   -per transplant PD cath to come out Thurs
 needs pre-op labs, stop
   heparin on wed night, NPO after midnight
   -HD today
   -Echo:  ? ASD septum secundum, LVH - > nl function, mild aortic regurg,
   small circumferential pericardial effusion, no tamponade, mild
   pulmonary systolic hypertension
   Allergies:
   Penicillins
   Rash;
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   itching;
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 850 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-12-19**] 06:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.4
C (97.6
   HR: 87 (75 - 109) bpm
   BP: 162/81(100) {122/67(80) - 172/116(131)} mmHg
   RR: 25 (11 - 26) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 60 Inch
             Total In:
                                                                    803 mL
                                                                    313 mL
   PO:
                                                                    460 mL
                                                                    200 mL
   TF:
   IVF:
                                                                    343 mL
                                                                    113 mL
   Blood products:
   Total out:
                                                                    750 mL
                                                                    250 mL
   Urine:
                                                                    750 mL
                                                                    250 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     53 mL
                                                                     63 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ////
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   191
   8.7
   90
   5.8
   22
   4.8
   38
   106
   139
   26.7
   3.8
        [image002.jpg]
   Other labs: PT / PTT / INR:15.6/105.1/1.4
   Rheum labs: dsDNA: pends, CRP: 4.5, C3: 68, C4: 19, Sed: 21
   Assessment and Plan
   24 year old lady with SLE, ESRD on HD and malignant hypertension
   presents with abdominal pain and headache consistent with her usual
   hypertensive urgency and was found to be in hypertensive urgency in
   ED.
   .
   1. Hypertensive Urgency: BP elevated on arrival to 253/170 in ED. No
   significant improvement to 10 IV hydral and max dose of labetolol drip
   per ED signout.  Currently on nicardipine drip.  Patient has known
   malignant hypertension of unclear etiology.  Has known ESRD/HD due to
   SLE.  Patient underwent hemodialysis yesterday.  History and exam not
   consistent with infection or ischemia.  Likely has an anxiety component
   precipitating hypertension.
   - will cont nicardipine gtt for BP goal of < 180/100
   - continue PO Labetolol 400mg TID, Hydralazine 100mg PO q8H, Nifedipine
   90mg PO qday, Clonidine
   - nephrology consulted
 HD on Tuesday, cont BP meds, unlikely that pt
   is fluid overloaded
   - aliskiren dose verified
 will continue
   - BCx with no growth as of [**12-19**]
   - will send for UA/Cx
 epi
s with bacteria, neg WBC, LE and Nitr
   .
   2. Abdominal Pain: Extensive prior workup unrevealing. Pt had recent CT
   scan which did not show source of abdominal pain.  Lipase near recent
   baseline of low 70s.
   - transplant surgery to remove PD cath Thrusday [**12-21**]
   - cont PO dilaudid prn home dose
   - pt states abd pain at baseline [**12-19**]
   .
   3. ESRD: HD yesterday. On T/Th/Sat schedule. Pt currently undergoing HD
   however still has PD line.
   - dialyzed [**12-19**]
   .
   4. Hx of SVC/brachiocephalic DVT: Her coumadin was held during last
   admission for supratherapeutic INR. Admitted on subtherpeutic INR of
   1.2
   - heparin gtt
   - started Coumadin 2mg PO qday
 d/c
d [**12-19**] in prep for OR Thursday,
   will stop heparin drip midnight before OR Thursday
   .
   5. Anxiety: Likely contributing to medical problems.  Pt recently saw
   psychiatrist who started her on Celexa.
   - continue Celexa 20mg PO qday
   - continue home lorazepam and clonazepam
   .
   6. Anemia: currently at baseline. Likely related to ESRD.
   - continue to monitor
   .
   7. SLE:
   - continue Prednisone 4mg PO qday
   .
   8. Pericardial effusion:
   - noted in TTE in the past.
   .
   9. HOCM:
   - will be careful not to reduce too much after load
   - will attemp to rate control
   .
   10. FEN: renal diet, replete lytes PRN
   .
   11. Prophylaxis: Heparin sc till INR is therapeutic, PPI
   .
   12. Code Status: FULL
   .
   13. Dispo: ICU
 HYPERTENSION, MALIGNANT (HYPERTENSIVE CRISIS, HYPERTENSIVE EMERGENCY)
 ANEMIA, CHRONIC
 SYSTEMIC LUPUS ERYTHEMATOSUS (SLE)
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
 OBSTRUCTIVE SLEEP APNEA (OSA)
 NAUSEA / VOMITING
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 .H/O ABDOMINAL PAIN (INCLUDING ABDOMINAL TENDERNESS)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2141-12-18**] 05:00 AM
   20 Gauge - [**2141-12-18**] 05:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2141-12-19 14:10:00 Physician Attending Progress Note
Chief Complaint: Hypertensive urgency
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 ULTRASOUND - At [**2141-12-18**] 11:08 AM
 CALLED OUT
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Penicillins
   Rash;
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   itching;
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 850 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Neurologic: No(t) Headache, Sleeping much of day
   Signs or concerns for abuse : No
   Flowsheet Data as of  [**2141-12-19**] 02:10 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.5
C (97.7
   HR: 95 (75 - 99) bpm
   BP: 132/65(83) {114/51(67) - 172/116(131)} mmHg
   RR: 15 (11 - 25) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 60 Inch
             Total In:
                                                                    803 mL
                                                                    724 mL
   PO:
                                                                    460 mL
                                                                    500 mL
   TF:
   IVF:
                                                                    343 mL
                                                                    224 mL
   Blood products:
   Total out:
                                                                    750 mL
                                                                    450 mL
   Urine:
                                                                    750 mL
                                                                    450 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     53 mL
                                                                    274 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   SpO2: 98%
   ABG: ///22/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: enucleated
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (Murmur: Systolic), II/VI SEM
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, PD catheter
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.7 g/dL
   191 K/uL
   90 mg/dL
   5.8 mg/dL
   22 mEq/L
   4.8 mEq/L
   38 mg/dL
   106 mEq/L
   139 mEq/L
   26.7 %
   3.8 K/uL
        [image002.jpg]
                             [**2141-12-19**]  06:45 AM
   WBC
   3.8
   Hct
   26.7
   Plt
   191
   Cr
   5.8
   Glucose
   90
   Other labs: PT / PTT / INR:15.4/90.8/1.4, Ca++:8.1 mg/dL, Mg++:1.8
   mg/dL, PO4:5.1 mg/dL
   Assessment and Plan
 HYPERTENSION, MALIGNANT (HYPERTENSIVE CRISIS, HYPERTENSIVE EMERGENCY)
 ANEMIA, CHRONIC
 SYSTEMIC LUPUS ERYTHEMATOSUS (SLE)
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
 OBSTRUCTIVE SLEEP APNEA (OSA)
 NAUSEA / VOMITING
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 .H/O ABDOMINAL PAIN (INCLUDING ABDOMINAL TENDERNESS)
   BP has come down almost excessively on usual meds. She remains labile
   but I suspect she has had trouble complying with her regime at home
   given the ease with which we have achieved control. I do worry we may
   overdose her if we escalate her regime.  Seen by Rheum w/o no clear
   recommendations as they think SLE is inactive.  Plan for PD catheter
   removal on Thurs.
   ICU Care
   Nutrition:
   Comments: full diet
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Dialysis Catheter - [**2141-12-18**] 05:00 AM
   18 Gauge - [**2141-12-19**] 12:15 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent:

2141-12-21 07:51:00 Physician Resident Progress Note
Chief Complaint: facial swelling
   24 Hour Events:
 DIALYSIS CATHETER - START [**2141-12-20**] 10:00 AM
 DIALYSIS CATHETER - START [**2141-12-20**] 10:00 AM
   PD cath noted left abd.
 MAGNETIC RESONANCE IMAGING - At [**2141-12-20**] 09:00 PM
   MRI of head and neck
   Very upset pre-MRV that was not getting fed, bargained PBJ [**Location (un) 316**] vs
   leaving AMA
   Required ativan for MRV x2 2mg doses, then was sleepy but breathing
   comfortably thereafter
   MRV done overnight: per fellow, no signs of new obstruction, R EJ is
   main venous drainage as it has been, collaterals and blockages remain
   essentially similar to [**Month (only) 60**]
   NPO p MN for peritoneal dialysis catheter removal per transplant
   surgery
   D/c decadron
   D/c nasal trumpet
   History obtained from Patient
   Allergies:
   History obtained from PatientPenicillins
   Rash;
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   itching;
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 400 units/hour
   Nitroglycerin - 1.5 mcg/Kg/min
   Other ICU medications:
   Naloxone (Narcan) - [**2141-12-20**] 11:24 AM
   Furosemide (Lasix) - [**2141-12-20**] 11:45 AM
   Hydralazine - [**2141-12-21**] 03:06 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: No(t) Dyspnea
   Flowsheet Data as of  [**2141-12-21**] 07:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.4
C (97.6
   HR: 99 (88 - 107) bpm
   BP: 178/117(130) {146/82(100) - 220/139(157)} mmHg
   RR: 15 (8 - 29) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 60 Inch
             Total In:
                                                                    320 mL
                                                                    302 mL
   PO:
                                                                    240 mL
                                                                    240 mL
   TF:
   IVF:
                                                                     80 mL
                                                                     62 mL
   Blood products:
   Total out:
                                                                  2,550 mL
                                                                    400 mL
   Urine:
                                                                  1,550 mL
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,230 mL
                                                                    -98 mL
   Respiratory support
   O2 Delivery Device: CPAP mask
   SpO2: 100%
   ABG: 7.36/42/158/22/-1
   PaO2 / FiO2: 451
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Diminished), (Right DP pulse: Diminished), (Left DP pulse:
   Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Bowel sounds present, Tender: diffusely, slightly more
   by PD catheter
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm, No(t) Rash:
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): *3, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   132 K/uL
   8.3 g/dL
   119 mg/dL
   5.8 mg/dL
   22 mEq/L
   5.9 mEq/L
   34 mg/dL
   104 mEq/L
   136 mEq/L
   25.2 %
   3.6 K/uL
        [image002.jpg]
                             [**2141-12-19**]  06:45 AM
                             [**2141-12-19**]  01:40 PM
                            [**2141-12-20**]  11:03 AM
                            [**2141-12-20**]  12:09 PM
                            [**2141-12-20**]  03:50 PM
                            [**2141-12-21**]  06:28 AM
   WBC
   3.8
   3.6
   Hct
   26.7
   25.2
   Plt
   191
   132
   Cr
   5.8
   6.2
   5.5
   5.8
   TCO2
   25
   Glucose
   90
   104
   100
   119
   Other labs: PT / PTT / INR:14.9/43.0/1.3, Lactic Acid:0.9 mmol/L,
   Ca++:9.2 mg/dL, Mg++:1.7 mg/dL, PO4:5.5 mg/dL
   Imaging: [**12-21**]
   SVC is patent.
   Right subclavian vein and right brachiocephalic veins are patent. Right
   IJ not visualized in the neck, consistent with occlusion. Again seen is
   a large right external jugular vein which provides the major venous
   drainage of the neck.
   Left subclavian vein is patent and drains into numerous venous
   collaterals in the mediastinum due to left brachiocephalic vein
   occlusion. Left IJ is patent, but diminuitive.
   Assessment and Plan
   24 yo woman with hx of SLE, ERSD on HD who presented with hypertensive
   urgency, HA and abd pain now transferred to the unit for angioedema.
   # Facial Swelling/Angioedema: Resolved. Perhaps given patient
s known
   venous blockages in neck patient develops functional SVC with fluid
   overload. Do no feel was med rxn to Aliskiren and no evidence acute SVC
   syndrome by MRV. On admission to MICU got prednisone 60mg, then started
   on decadron out of concern for angio edema.  Patient
   - Stop decadron, restart prednisone 4mg which her home dose
   - Heparin drip for goal PTT 60-80
   - Stop benadryl and H2 blocker
   - D/C Nasal trumpet
   - CPAP for sleep
   # Somulence: Patient rousable and oriented. Likely med effect. ABG w/o
   hypercarbia
   - monitor closely
   - cont at decreased Dilaudid dose
   # Hypertension: initially 235/170 in ED, but improved with nicardipine
   drip which was discontinued during first unit stay. No clear
   precipitating event. No hx of recent drug use. On admit to the floor
   BPs are stable and the patient is aysmptomatic. Nephrology following.
   Plan to continue PO anti-hypertensives.
   - Consider restarting Aliskiren in consultation with renal
   -continue labetalol, hydralazine, nifedipine, clonidine at current
   doses. Have room to increase nifedipine if needed.
   -dialysis T, Thrs, Sat, plan for replacement of HD catheter on Thurs
   with temp line
   # SLE: Rheum following and does not suspect acute flare and dsDNA, C3,
   C4 nl, ESR and CRP slightly elevated. No evidence of blood or urine
   infection by culture that may have led to an acute flare. Pneumonia
   unlikely at this point as patient does not have fever or leukocytosis.
   Echo does not suggest worsening pericarditis.
   - restart prednisone at 4 mg PO daily
   #Abd pain: No clear etiology however previous workup is without
   significant findings, may be secondary to inflammation around the site
   of the PD catheter.
   -PD catheter to be removed on TODAY.
   -cont to treat pain
   #ESRD: HD today and scheduled for Thurs as well. Renal following.
   -follow lytes, replete as indicated
   - schedule NEW tunneled HD line, patient currently has temp
   # Anemia: baseline 26. AOCD and in setting of renal failure
   -monitor HCT
   #Coagulopathy: patient on lifetime anticoagulation for hx of multiple
   thrombotic events
   -hold warfarin now for replacement of dialysis catheter
   -heparin bridge
   -will restart warfarin for INR of [**2-12**] after replacement of HD cath.
   # HOCM: evidence of myocardial hypertrophy on Echo. Currently not
   symptomatic. Echo without evidence of worsening pericardial effusion.
   -Continue bblocker
   # Depression/anxiety. Continue Celexa, hold clonazepam
   # OSA: CPAP for sleep with 7 pressure.
   ICU Care
   Nutrition: PO diet
   Glycemic Control:  Comments: not needed
   Lines:
   Dialysis Catheter - [**2141-12-20**] 10:00 AM
   22 Gauge - [**2141-12-20**] 10:01 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
 change to PPI
   VAP:
   Comments: not intubated
   Communication:  discussed in interdisciplinary rounds, patient, mother
   [**Name (NI) 66**] status: Full code
   Disposition:Transfer to floor

2141-12-21 08:52:00 Physician Attending Progress Note
Chief Complaint: facial swelling
   HPI:
   admitted to MICU with facial swelling, ddx angioedema vs SVC syndrome.
   s/p MRV with no evidence of new SVC clot. Angioedema r/o. Remains in
   MICu to establish HD access (prior ESRD, HD line pulled out
   inadvertantly on the floor)
   24 Hour Events:
 DIALYSIS CATHETER - START [**2141-12-20**] 10:00 AM
 DIALYSIS CATHETER - START [**2141-12-20**] 10:00 AM
   PD cath noted left abd.
 MAGNETIC RESONANCE IMAGING - At [**2141-12-20**] 09:00 PM
   MRI of head and neck
   Old peritoneal Dialysis catheter removed.
   decadron Dc'd
   Dialyes via temp fem line
   Allergies:
   Penicillins
   Rash;
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   itching;
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 400 units/hour
   Nitroglycerin - 1.5 mcg/Kg/min
   Other ICU medications:
   Naloxone (Narcan) - [**2141-12-20**] 11:24 AM
   Furosemide (Lasix) - [**2141-12-20**] 11:45 AM
   Hydralazine - [**2141-12-21**] 03:06 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-12-21**] 08:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.4
C (97.6
   HR: 99 (88 - 107) bpm
   BP: 178/117(130) {146/82(100) - 220/139(157)} mmHg
   RR: 15 (8 - 29) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 60 Inch
             Total In:
                                                                    320 mL
                                                                    314 mL
   PO:
                                                                    240 mL
                                                                    240 mL
   TF:
   IVF:
                                                                     80 mL
                                                                     74 mL
   Blood products:
   Total out:
                                                                  2,550 mL
                                                                    400 mL
   Urine:
                                                                  1,550 mL
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,230 mL
                                                                    -86 mL
   Respiratory support
   O2 Delivery Device: CPAP mask
   SpO2: 100%
   ABG: 7.36/42/158/22/-1
   PaO2 / FiO2: 451
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: decreased facial edema
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Percussion: Resonant : ), (Breath Sounds: Clear :
   )
   Abdominal: Soft, Tender: mildly diffusely
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.3 g/dL
   132 K/uL
   119 mg/dL
   5.8 mg/dL
   22 mEq/L
   5.9 mEq/L
   34 mg/dL
   104 mEq/L
   136 mEq/L
   25.2 %
   3.6 K/uL
        [image002.jpg]
                             [**2141-12-19**]  06:45 AM
                             [**2141-12-19**]  01:40 PM
                            [**2141-12-20**]  11:03 AM
                            [**2141-12-20**]  12:09 PM
                            [**2141-12-20**]  03:50 PM
                            [**2141-12-21**]  06:28 AM
   WBC
   3.8
   3.6
   Hct
   26.7
   25.2
   Plt
   191
   132
   Cr
   5.8
   6.2
   5.5
   5.8
   TCO2
   25
   Glucose
   90
   104
   100
   119
   Other labs: PT / PTT / INR:14.9/43.0/1.3, Lactic Acid:0.9 mmol/L,
   Ca++:9.2 mg/dL, Mg++:1.7 mg/dL, PO4:5.5 mg/dL
   Assessment and Plan
   Facial Edema -
   Acute SVC syndrome now [**Doctor Last Name 6983**] likely. Ddx fluid overload vs agioedema,
   though no really likely meds. Now off decadron, benadryl and H2
   blocker. No decision on restarting renin inhibitor.
   Will restart heaprin drip now that PD catheter removed.
   Htn -
   Given time course, angioedmea still a possibility. Will increase
   nifedipine today. DC nitro drip.
   somnolence/altered mental status - now resolved.
   Renal failure -
   Plans as per renal for placement of permanent HD access.
   Further plans as per resident notes.
   ICU Care
   Nutrition:
   Comments: po diet
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Dialysis Catheter - [**2141-12-20**] 10:00 AM
   22 Gauge - [**2141-12-20**] 10:01 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: Not indicated
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor when off nitro drip
   Total time spent: 30 minutes